US05760032
4-(2-Chlorophenyl)-2,9-dimethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine (4.15 g) was dissolved in 5% hydrochloric acid (50 ml), and the solution was stirred at 60° C. for 4 hours. The reaction mixture was cooled in a water bath, and chloroform (60 ml) and sodium hydrogencarbonate (12.6 g) were added with vigorous stirring. Then, 1-ethoxycarbonylmethylindole-2-carbonyl chloride (3.52 g) was added, and the mixture was stirred for 1 hour. The chloroform layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was purified by silica gel column chromatography using a mixed solvent of ethyl acetate and methanol as eluent and crystallized from a mixed solvent of ethyl acetate and hexane to give 6.23 g of ethyl 2-(4-(3-(2-chlorobenzoyl)-5-methylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethylcarbamoyl)indole-1-acetate.

reactant | 4-(2-Chlorophenyl)-2,9-dimethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 4.15 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)C)C(=NN2)C | C16H13ClN4S
reactant | chloroform | 60 ml | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydrogencarbonate | 12.6 g | C(O)([O-])=O.[Na+]
reactant | 1-ethoxycarbonylmethylindole-2-carbonyl chloride | 3.52 g | C(C)OC(=O)CN1C(=CC2=CC=CC=C12)C(=O)Cl | C13H12ClNO3
solvent | hydrochloric acid | 50 ml | Cl | ClH
product | ethyl 2-(4-(3-(2-chlorobenzoyl)-5-methylthiophen-2-yl)-5-methyl[1,2,4]triazol-3-ylmethylcarbamoyl)indole-1-acetate | 6.23 g | ClC1=C(C(=O)C2=C(SC(=C2)C)N2C(=NN=C2C)CNC(=O)C=2N(C3=CC=CC=C3C2)CC(=O)OCC)C=CC=C1 | C29H26ClN5O4S
